***********************************************************************
**  v1.7.5 PSpice Models Library - TI NexFET Power N/P Channel FET's
*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
* Notice:
* The data and models provided herein are intended to be used by 
* customers as an aid in designing electrical circuits using 
* semiconductor devices manufactured &/or sold by Texas Instruments.
* The models and associated information contained herein are not to
* be construed as a guarantee of electrical performance and/or device 
* specification.  Therefore, Texas Instruments does not assume any 
* liability arising out of the use of said data or models, nor from
* the devices or products manufactured therefrom.  Texas Instruments
* does not convey any license under its patent rights nor the rights
* of others.  Texas Instruments reserves the right to change models 
* without prior notice.  
*
* TI is a registered trademark of Texas Instruments Inc.
*************************************************************************
********************************************************************************
*
* Released by: WEBENCH® Design Center, Texas Instruments Inc.
* Part: CSD18533Q5A
* Date: 09/21/2012
* Model Type: TRANSIENT
* Simulator: PSPICE
* Datasheet: SLPS388 - SEPTEMBER 2012
*
*****************************************************************************
 *$
**********************************************************************
**********************************************************************
*                                                                    *
* CSD18533Q5A   -  PSpice Model for use with OrCAD                   *
*                                                                    *
**********************************************************************
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+(	0	2.2151E-09	)
+(	0.5	2.2169E-09	)
+(	1	2.2144E-09	)
+(	1.5	2.2095E-09	)
+(	2	2.2051E-09	)
+(	2.5	2.2022E-09	)
+(	3	2.199E-09	)
+(	3.5	2.1968E-09	)
+(	4	2.194E-09	)
+(	4.5	2.193E-09	)
+(	5	2.1919E-09	)
+(	5.5	2.1915E-09	)
+(	6	2.191E-09	)
+(	6.5	2.1905E-09	)
+(	7	2.191E-09	)
+(	7.5	2.1936E-09	)
+(	8	2.1955E-09	)
+(	8.5	2.1976E-09	)
+(	9	2.21452E-09	)
+(	9.5	2.26193E-09	)
+(	10	2.26038E-09	)
+(	10.5	2.25856E-09	)
+(	11	2.25853E-09	)
+(	11.5	2.25737E-09	)
+(	12	2.2571E-09	)
+(	12.5	2.25575E-09	)
+(	13	2.25527E-09	)
+(	13.5	2.25478E-09	)
+(	14	2.25425E-09	)
+(	14.5	2.25369E-09	)
+(	15	2.2541E-09	)
+(	15.5	2.25349E-09	)
+(	16	2.25285E-09	)
+(	16.5	2.25219E-09	)
+(	17	2.25152E-09	)
+(	17.5	2.25183E-09	)
+(	18	2.25112E-09	)
+(	18.5	2.25041E-09	)
+(	19	2.24969E-09	)
+(	19.5	2.24995E-09	)
+(	20	2.24921E-09	)
+(	20.5	2.24845E-09	)
+(	21	2.24769E-09	)
+(	21.5	2.24791E-09	)
+(	22	2.24713E-09	)
+(	22.5	2.24634E-09	)
+(	23	2.24555E-09	)
+(	23.5	2.24574E-09	)
+(	24	2.24494E-09	)
+(	24.5	2.24413E-09	)
+(	25	2.24331E-09	)
+(	25.5	2.24347E-09	)
+(	26	2.24264E-09	)
+(	26.5	2.2418E-09	)
+(	27	2.24095E-09	)
+(	27.5	2.2411E-09	)
+(	28	2.24024E-09	)
+(	28.5	2.23937E-09	)
+(	29	2.2395E-09	)
+(	29.5	2.23862E-09	)
+(	30	2.23773E-09	)
+(	30.5	2.23684E-09	)
+(	31	2.23695E-09	)
+(	31.5	2.23605E-09	)
+(	32	2.23514E-09	)
+(	32.5	2.23424E-09	)
+(	33	2.23433E-09	)
+(	33.5	2.23341E-09	)
+(	34	2.23249E-09	)
+(	34.5	2.23257E-09	)
+(	35	2.23164E-09	)
+(	35.5	2.23071E-09	)
+(	36	2.22977E-09	)
+(	36.5	2.22983E-09	)
+(	37	2.22889E-09	)
+(	37.5	2.22795E-09	)
+(	38	2.228E-09	)
+(	38.5	2.22704E-09	)
+(	39	2.22608E-09	)
+(	39.5	2.22513E-09	)
+(	40	2.22517E-09	)
+(	40.5	2.22421E-09	)
+(	41	2.22324E-09	)
+(	41.5	2.22326E-09	)
+(	42	2.22229E-09	)
+(	42.5	2.22132E-09	)
+(	43	2.22034E-09	)
+(	43.5	2.22036E-09	)
+(	44	2.21939E-09	)
+(	44.5	2.2184E-09	)
+(	45	2.21742E-09	)
+(	45.5	2.21744E-09	)
+(	46	2.21645E-09	)
+(	46.5	2.21546E-09	)
+(	47	2.21547E-09	)
+(	47.5	2.21447E-09	)
+(	48	2.21348E-09	)
+(	48.5	2.21248E-09	)
+(	49	2.21248E-09	)
+(	49.5	2.21149E-09	)
+(	50	2.21048E-09	)
+(	50.5	2.20948E-09	)
+(	51	2.20948E-09	)
+(	51.5	2.20848E-09	)
+(	52	2.20747E-09	)
+(	52.5	2.20746E-09	)
+(	53	2.20645E-09	)
+(	53.5	2.20544E-09	)
+(	54	2.20443E-09	)
+(	54.5	2.20442E-09	)
+(	55	2.20341E-09	)
+(	55.5	2.2024E-09	)
+(	56	2.20139E-09	)
+(	56.5	2.20138E-09	)
+(	57	2.20037E-09	)
+(	57.5	2.19937E-09	)
+(	58	2.19837E-09	)
+(	58.5	2.19737E-09	)
+(	59	2.19737E-09	)
+(	59.5	2.19636E-09	)
+(	60	2.19536E-09	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+(	0	2.759E-10	)
+(	0.5	2.511E-10	)
+(	1	2.316E-10	)
+(	1.5	2.215E-10	)
+(	2	2.139E-10	)
+(	2.5	2.068E-10	)
+(	3	2E-10	)
+(	3.5	1.932E-10	)
+(	4	1.87E-10	)
+(	4.5	1.81E-10	)
+(	5	1.751E-10	)
+(	5.5	1.695E-10	)
+(	6	1.64E-10	)
+(	6.5	1.585E-10	)
+(	7	1.52E-10	)
+(	7.5	1.434E-10	)
+(	8	1.345E-10	)
+(	8.5	1.264E-10	)
+(	9	9.748E-11	)
+(	9.5	3.507E-11	)
+(	10	3.362E-11	)
+(	10.5	3.244E-11	)
+(	11	3.147E-11	)
+(	11.5	3.063E-11	)
+(	12	2.99E-11	)
+(	12.5	2.925E-11	)
+(	13	2.873E-11	)
+(	13.5	2.822E-11	)
+(	14	2.775E-11	)
+(	14.5	2.731E-11	)
+(	15	2.69E-11	)
+(	15.5	2.651E-11	)
+(	16	2.615E-11	)
+(	16.5	2.581E-11	)
+(	17	2.548E-11	)
+(	17.5	2.517E-11	)
+(	18	2.488E-11	)
+(	18.5	2.459E-11	)
+(	19	2.431E-11	)
+(	19.5	2.405E-11	)
+(	20	2.379E-11	)
+(	20.5	2.355E-11	)
+(	21	2.331E-11	)
+(	21.5	2.309E-11	)
+(	22	2.287E-11	)
+(	22.5	2.266E-11	)
+(	23	2.245E-11	)
+(	23.5	2.226E-11	)
+(	24	2.206E-11	)
+(	24.5	2.187E-11	)
+(	25	2.169E-11	)
+(	25.5	2.153E-11	)
+(	26	2.136E-11	)
+(	26.5	2.12E-11	)
+(	27	2.105E-11	)
+(	27.5	2.09E-11	)
+(	28	2.076E-11	)
+(	28.5	2.063E-11	)
+(	29	2.05E-11	)
+(	29.5	2.038E-11	)
+(	30	2.027E-11	)
+(	30.5	2.016E-11	)
+(	31	2.005E-11	)
+(	31.5	1.995E-11	)
+(	32	1.986E-11	)
+(	32.5	1.976E-11	)
+(	33	1.967E-11	)
+(	33.5	1.959E-11	)
+(	34	1.951E-11	)
+(	34.5	1.943E-11	)
+(	35	1.936E-11	)
+(	35.5	1.929E-11	)
+(	36	1.923E-11	)
+(	36.5	1.917E-11	)
+(	37	1.911E-11	)
+(	37.5	1.905E-11	)
+(	38	1.9E-11	)
+(	38.5	1.896E-11	)
+(	39	1.892E-11	)
+(	39.5	1.887E-11	)
+(	40	1.883E-11	)
+(	40.5	1.879E-11	)
+(	41	1.876E-11	)
+(	41.5	1.874E-11	)
+(	42	1.871E-11	)
+(	42.5	1.868E-11	)
+(	43	1.866E-11	)
+(	43.5	1.864E-11	)
+(	44	1.861E-11	)
+(	44.5	1.86E-11	)
+(	45	1.858E-11	)
+(	45.5	1.856E-11	)
+(	46	1.855E-11	)
+(	46.5	1.854E-11	)
+(	47	1.853E-11	)
+(	47.5	1.853E-11	)
+(	48	1.852E-11	)
+(	48.5	1.852E-11	)
+(	49	1.852E-11	)
+(	49.5	1.851E-11	)
+(	50	1.852E-11	)
+(	50.5	1.852E-11	)
+(	51	1.852E-11	)
+(	51.5	1.852E-11	)
+(	52	1.853E-11	)
+(	52.5	1.854E-11	)
+(	53	1.855E-11	)
+(	53.5	1.856E-11	)
+(	54	1.857E-11	)
+(	54.5	1.858E-11	)
+(	55	1.859E-11	)
+(	55.5	1.86E-11	)
+(	56	1.861E-11	)
+(	56.5	1.862E-11	)
+(	57	1.863E-11	)
+(	57.5	1.863E-11	)
+(	58	1.863E-11	)
+(	58.5	1.863E-11	)
+(	59	1.863E-11	)
+(	59.5	1.864E-11	)
+(	60	1.864E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+(	0	2.4871E-09	)
+(	0.5	2.2849E-09	)
+(	1	2.0544E-09	)
+(	1.5	1.8925E-09	)
+(	2	1.7761E-09	)
+(	2.5	1.6842E-09	)
+(	3	1.611E-09	)
+(	3.5	1.5348E-09	)
+(	4	1.48E-09	)
+(	4.5	1.429E-09	)
+(	5	1.3779E-09	)
+(	5.5	1.3335E-09	)
+(	6	1.29E-09	)
+(	6.5	1.2495E-09	)
+(	7	1.209E-09	)
+(	7.5	1.1616E-09	)
+(	8	1.1115E-09	)
+(	8.5	1.0616E-09	)
+(	9	1.03752E-09	)
+(	9.5	9.3773E-10	)
+(	10	6.0658E-10	)
+(	10.5	5.8416E-10	)
+(	11	5.6313E-10	)
+(	11.5	5.4427E-10	)
+(	12	5.254E-10	)
+(	12.5	5.1015E-10	)
+(	13	4.9487E-10	)
+(	13.5	4.8008E-10	)
+(	14	4.6755E-10	)
+(	14.5	4.5509E-10	)
+(	15	4.434E-10	)
+(	15.5	4.3169E-10	)
+(	16	4.2625E-10	)
+(	16.5	4.1629E-10	)
+(	17	4.0722E-10	)
+(	17.5	3.9833E-10	)
+(	18	3.8982E-10	)
+(	18.5	3.8181E-10	)
+(	19	3.7479E-10	)
+(	19.5	3.6725E-10	)
+(	20	3.6041E-10	)
+(	20.5	3.5405E-10	)
+(	21	3.4769E-10	)
+(	21.5	3.4221E-10	)
+(	22	3.3613E-10	)
+(	22.5	3.3074E-10	)
+(	23	3.3315E-10	)
+(	23.5	3.2824E-10	)
+(	24	3.2364E-10	)
+(	24.5	3.1913E-10	)
+(	25	3.1461E-10	)
+(	25.5	3.1047E-10	)
+(	26	3.0654E-10	)
+(	26.5	3.028E-10	)
+(	27	2.9915E-10	)
+(	27.5	2.957E-10	)
+(	28	2.9244E-10	)
+(	28.5	2.8927E-10	)
+(	29	2.862E-10	)
+(	29.5	2.8332E-10	)
+(	30	2.8053E-10	)
+(	30.5	2.7794E-10	)
+(	31	2.7535E-10	)
+(	31.5	2.7295E-10	)
+(	32	2.7064E-10	)
+(	32.5	2.6844E-10	)
+(	33	2.6633E-10	)
+(	33.5	2.6431E-10	)
+(	34	2.6229E-10	)
+(	34.5	2.6047E-10	)
+(	35	2.5864E-10	)
+(	35.5	2.5691E-10	)
+(	36	2.5527E-10	)
+(	36.5	2.5363E-10	)
+(	37	2.5209E-10	)
+(	37.5	2.5065E-10	)
+(	38	2.492E-10	)
+(	38.5	2.4784E-10	)
+(	39	2.4648E-10	)
+(	39.5	2.4523E-10	)
+(	40	2.4397E-10	)
+(	40.5	2.4281E-10	)
+(	41	2.4164E-10	)
+(	41.5	2.4056E-10	)
+(	42	2.3949E-10	)
+(	42.5	2.3852E-10	)
+(	43	2.3754E-10	)
+(	43.5	2.3656E-10	)
+(	44	2.3559E-10	)
+(	44.5	2.347E-10	)
+(	45	2.3382E-10	)
+(	45.5	2.3304E-10	)
+(	46	2.3225E-10	)
+(	46.5	2.3136E-10	)
+(	47	2.3067E-10	)
+(	47.5	2.2987E-10	)
+(	48	2.2918E-10	)
+(	48.5	2.2848E-10	)
+(	49	2.2778E-10	)
+(	49.5	2.2719E-10	)
+(	50	2.2648E-10	)
+(	50.5	2.2588E-10	)
+(	51	2.2528E-10	)
+(	51.5	2.2478E-10	)
+(	52	2.2417E-10	)
+(	52.5	2.2366E-10	)
+(	53	2.2315E-10	)
+(	53.5	2.2264E-10	)
+(	54	2.2213E-10	)
+(	54.5	2.2162E-10	)
+(	55	2.2121E-10	)
+(	55.5	2.207E-10	)
+(	56	2.2029E-10	)
+(	56.5	2.1988E-10	)
+(	57	2.1937E-10	)
+(	57.5	2.1897E-10	)
+(	58	2.1857E-10	)
+(	58.5	2.1827E-10	)
+(	59	2.1787E-10	)
+(	59.5	2.1746E-10	)
+(	60	2.1716E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
.SUBCKT CSD18533Q5A  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
 .PARAM  ptrc1    7.00e-3  
 .PARAM  ptrc2    2.0e-5
 .PARAM  pwidthP  4.02
 .PARAM  pwidth   {pwidthP*1e6}
 .PARAM  perimP   {2.1*pwidthP}
 .PARAM  perim    {perimP*1e6}
****** MODEL SUBCIRCUIT BEGINS HERE     ******************************
M1   10 11 12 12  NMOS	W={pwidthP} L=0.5u  PS={perimP} PD={perimP}
*M2   12 11 12 20  PMOSd W={pwidthP} L=0.05u PS={perimP} PD={perimP}
*DDx  20  10  DDx
* Note:  gate oxide capacitance included in NMOS below
xcgd	5	10	1	3	cgd
cgs	5	8	1.05e-9
*xcgs	5	8	1	3	cgs
xcds	8	10	1	3	cds
DBD	3	1	DBD {4.02/5.788666666666666666666666666666666666666666666667}
LGG   2  5	 2.1e-9
RGG   5 11	 4.50
RSB  12  9	 RTEMP 0.23166e-3
R   9  8 	 RTEMP 0.23166e-3
RSP   8  6 	 {0.45e-3+1.3e-3*0}
L   6  3	 0.47e-9
RSL   6  3   0.5
RDD   7 10 	 RTEMP 2.05e-3
RDP   4  7	 {0.5e-4+1.17e-3}
LDD   1  4	 0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (
* CONTROL PARAMETERS
+ LEVEL  = 7             VERSION = 3.2         CAPMOD = 2
* DC PARAMETERS
+ NLX    = 1.74E-7       VBM    = -5           DVT0   = 2.2
+ DVT1   = 0.53          DVT2   = -0.032       U0     = 550
+ UA     = 1.4e-9        UB     = 5.0e-18      A0     = 1.0
+ AGS    = 0.0           A1     = 0.0          A2     = 1.0
+ LINT   = 0.055e-6      VOFF   = -0.28        NFACTOR= 2.0
+ ETA0   = 0.005         ETAB   = -0.07        DSUB   = 1.4
+ PCLM   = 0.25          PDIBLC1= 0.02         PDIBLC2= 0.004
+ DROUT  = 0.90          PSCBE1 = 3.0e8        PSCBE2 = 1e-6
+ PVAG   = 0.1           DELTA  = 0.0220       JS     = 0
* AC AND CAPACITANCE PARAMETERS
+ CGSO   = 1e-18       CGDO   = 1e-18        CGBO   = 1e-18
+ CJ     = 1e-18         CJSW   = 1e-18        CF     = 0
* TEMPERATURE PARAMETERS
+ TNOM   = 25            UTE    = -1.5         KT1    = -0.85
+ KT1L   = 1.0e-15       KT2    = 0.022        UA1    = 0.25e-10
+ UB1    = -0.8e-18      
* PROCE PARAMETERS
+ TOX    = 4.00e-8       XJ     = 3e-7          NCH    = 1.275e17
+ NSUB   = 1.0e16)
******************************************************************* 
.MODEL  PMOSd   PMOS (   LEVEL  = 1
+ TNOM   = 27            VTO    = -0.3          IS     = 6.0e-14
+ TOX    = 4.00e-8       NSUB   = 1.5e18		gamma	=	10
+ CJ     = 1e-18         CJSW   = 1e-18
+ CGSO   = 1e-18         CGDO   = 1e-18         CGBO   = 0  )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=3.3 BV=61
+ IS=7.0e-12 N=1.06 RS=0.90e-3 TRS1=4.0e-3)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
.MODEL DDx D (CJO=0.085e-09 VJ=0.50 M=0.45 IS=1e-12 RS=1.0 TNOM=27)
*******************************************************************
.ENDS CSD18533Q5A
*$
*


